US04210590
70 milligrams of 2,3,4,5-tetrahydro-1H-[1,4]-diazepino [1,2-a]indole (prepared as described in U.S. Pat. No. 3,867,374) was dissolved in 3 milliliters of trifluoroacetic acid and the mixture was stirred for 10 minutes under nitrogen. Thereafter, 1.5 milliliters of a 1 M solution of BH3.THF in tetrahydrofuran was added dropwise with stirring and the resulting mixture stirred for 40 minutes to obtain a 2,3,4,5,11,11a-hexahydro-1H-[1,4]-diazepino[1,2-a]indole product in the reaction mixture. Water (0.5 milliliter) then was added dropwise to the mixture cooled in an ice bath, followed by 10 percent NaOH until pH tested about 9 (pH test paper). The alkaline solution was extracted with methylene chloride and the methylene chloride solution washed with saturated sodium chloride solution and dried over potassium carbonate. The dried solution was filtered to remove the drying agent and evaporated in vacuo to obtain 60 milligrams (85 percent yield) of 2,3,4,5,11,11a-hexahydro-1H-[1,4]diazepino[ 1,2-a]indole product as an oil having NMR and mass spectra appropriate for the compound. The hydrochloride salt of the product melted 238°-240° C.

reactant | 2,3,4,5-tetrahydro-1H-[1,4]-diazepino [1,2-a]indole | 70 milligrams | C1NCCCN2C1=CC=1C=CC=CC21 | C12H14N2
reactant | BH3.THF | B.C1CCOC1
solvent | trifluoroacetic acid | 3 milliliters | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3,4,5,11,11a-hexahydro-1H-[1,4]-diazepino[1,2-a]indole | C1NCCCN2C1CC=1C=CC=CC21 | C12H16N2
